US08067590B2
1-[2-(4-Chloromethyl-phenyl)-2-oxo-ethyl]-4-(4-fluoro-benzyloxy)-1H-pyridin-2-one
To 1.20 g (3.27 mmol) 4-(4-fluoro-benzyloxy)-1-[2-(4-hydroxymethyl-phenyl)-2-oxo-ethyl]-1H-pyridin-2-one (preparation 31.1) in 20 mL DCM is added 0.29 mL (3.59 mmol) pyridine and 0.26 mL (3.59 mmol) thionylchloride at 0° C. The reaction mixture is stirred 1 h at 0° C., is warmed to RT and is then diluted with water. The organic phase is washed with saturated aqueous KHSO4-solution and then with water, dried over MgSO4, filtered over charcoal and the solvent is evaporated.

reactant | 4-(4-fluoro-benzyloxy)-1-[2-(4-hydroxymethyl-phenyl)-2-oxo-ethyl]-1H-pyridin-2-one | 3.27 mmol, 1.20 g | FC1=CC=C(COC2=CC(N(C=C2)CC(=O)C2=CC=C(C=C2)CO)=O)C=C1 | C21H18FNO4
reactant | pyridine | 3.59 mmol, 0.29 mL | N1=CC=CC=C1 | C5H5N
reactant | thionylchloride | 3.59 mmol, 0.26 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-[2-(4-Chloromethyl-phenyl)-2-oxo-ethyl]-4-(4-fluoro-benzyloxy)-1H-pyridin-2-one | ClCC1=CC=C(C=C1)C(CN1C(C=C(C=C1)OCC1=CC=C(C=C1)F)=O)=O | C21H17ClFNO3
